US03987160
A solution of triethyloxonium borofluoride (23 g.) in anhydrous methylene chloride (60 ml.) was added to a solution of 2-methoxy-3-methylbenzamide [19.7 g; prepared as described in French Patent M.21] in anhydrous methylene chloride (200 ml.). The mixture was kept at room temperature for 3 days, concentrated to about 120 ml. and diluted with anhydrous diethyl ether (300 ml.). The solid which separated was filtered off and washed with anhydrous diethyl ether to give ethyl 2-methoxy-3-methylbenzimidate borofluoride (28.7 g.), m.p. 93°-96° C., which was pure enough for use in the next stage of the synthesis. An aliquot was recrystallised from a mixture of anhydrous methylene chloride and anhydrous diethyl ether to give pure ethyl 2-methoxy-3-methylbenzimidate borofluoride, m.p. 102°-104° C.

reactant | triethyloxonium borofluoride | 23 g | [B-](F)(F)(F)F.CC[O+](CC)CC
reactant | 2-methoxy-3-methylbenzamide | 19.7 g | COC1=C(C(=O)N)C=CC=C1C | C9H11NO2
solvent | methylene chloride | 60 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 200 ml | C(Cl)Cl | CH2Cl2
product | ethyl 2-methoxy-3-methylbenzimidate | COC1=C(C(OCC)=N)C=CC=C1C | C11H15NO2
